US04082850
Reaction of ethyl 4-(2-ethoxycarbonyl-4-trifluoromethylbenzyloxy)phenylacetate with potassium hydroxide as described in Example 1c provides 4-(2-carboxy-4-trifluoromethylbenzyloxy)phenylacetic acid, mp 185°-187° C.

reactant | ethyl 4-(2-ethoxycarbonyl-4-trifluoromethylbenzyloxy)phenylacetate | C(C)OC(=O)C1=C(COC2=CC=C(C=C2)CC(=O)OCC)C=CC(=C1)C(F)(F)F | C21H21F3O5
reactant | potassium hydroxide | [OH-].[K+]
product | 4-(2-carboxy-4-trifluoromethylbenzyloxy)phenylacetic acid | C(=O)(O)C1=C(COC2=CC=C(C=C2)CC(=O)O)C=CC(=C1)C(F)(F)F | C17H13F3O5
